Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Interferons / Latex
 
Attending: ___.
 
Chief Complaint:
Hyperkalemia and confusion
 
Major Surgical or Invasive Procedure:
Cyberknife therapy 

 
History of Present Illness:
Ms. ___ is a ___ y.o. F with type 2 diabetes mellitus, 
hepatitis C complicated by cirrhosis, varices, hepatic 
encephalopathy, and HCC, presented to ___ on 
morning of admission with confusion and shakiness. She reported 
that she had not eaten her breakfast and had not taken any 
insulin prior to arrival in the ___. At Center, 
she denied any nausea, pain, chest pain, or shortness of breath. 
Labs with K 6.2, Na 132. ___ MDs contacted 
hepatologists, who recommended evaluation via ED.  
.  
In the ED, initial VS: T 97.6 HR 60 BP 137/58 RR 16 100%.  
While in the ED, pt was given 30mg kayexylate, EKG reportedly 
without peaked T waves. Pt initially refused IV placement and IV 
finally achieved after U/S guidance. Pt reported to the ED that 
she had some blood on the toilet paper while in ED.  
.  
Currently, Pt reports that she did not have confusion this am. 
She states she did not eat nor take her insulin. She then felt 
shaky and sweaty and asked the nurses for something to eat. She 
was then sent to the ED. She denies recent 
fever/chills/headache/ vision changes, rhinorrhea, congestion, 
sore throat, cough, shortness of breath, chest pain, abdominal 
pain, nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria, leg edema, or rash. She does 
endorse an 11lb weight loss over the last 3 months. Pt states 
that she was advised to follow a low K diet. However, she admits 
to recently eating alot of bananas and oranges.  
.  
Of note, she reports going to her PCP last week and being 
treated for a UTI. She is on day ___ of bactrim.
 
Past Medical History:
1. ESLD / hep C cirrhosis: Believes she acquired Hep C from 
needlestick while working as ___. Failed 2 courses of IFN 
therapy. On liver transplant list. Likely past episodes of 
hepatic encephalopathy. EGD ___ showed ___ columns of grade 1 
varices.  
2. Hepatocellular carcinoma (1.8 x 1.6cm on imaging ___.  
3. Single seizure: First ever seizure ___ with preceding sx  

of confusion, urinary incontinence. Workup negative. On Keppra  
since discharge.  
4. Diabetes ___: ___ found to be in high 200's during last  
hospitalization. ___ consulted, recommended tx'd as if type  
5. Anti-islet cell, anti-insulin, anti-GAD antibodies negative,  

c-peptide WNL.  
6. Anemia: Baseline Hct ~30. Per pt, anemia due to IFN therapy.  

MCV 106.  
7. Thyroid nodules: All features benign imaging ___. GERD  
9. Osteopenia: Worst t-score -1.2 on BMD ___. Essential tremor  
11. PUD: s/p gastric polypectomy, subtotal gastrectomy  
12. Cholelithiasis  
13. S/p b/l salpingo-oopherectomy for cysts ___  
 
Social History:
___
Family History:
Mother died of pancreatic cancer, father died of cancer of 
unknown type of cancer. Siblings in good health except for one 
brother who died of alcohol cirrhosis. No FH of IDDM
 
Physical Exam:
Vitals- T. 97.8, BP 133/61, HR 64, RR 18 sat 99%RA  
GENERAL: well appearing, NAD, appears stated age  
HEENT:nc/at perrla, EOMI, slight icterus, MMM, no op lesions  
neck-no LAD  
CARDIAC: s1s2 rrr no m/r/g  
LUNG: b/l ae no w/c/r  
ABDOMEN:+bs, soft, NT, ND  
EXT: no c/c/ trace b/l pitting edema.  
NEURO:AAOx3, CN2-12 intact, +asterixis 
 
Pertinent Results:
CBC:
___ 01:10PM BLOOD WBC-3.4* RBC-2.89* Hgb-10.3* Hct-32.0* 
MCV-111* MCH-35.6* MCHC-32.1 RDW-17.7* Plt Ct-48*
___ 01:10PM BLOOD Neuts-60.9 ___ Monos-9.5 Eos-2.5 
Baso-0.6
___ 05:20AM BLOOD WBC-3.1* RBC-2.62* Hgb-9.2* Hct-28.3* 
MCV-108* MCH-35.3* MCHC-32.6 RDW-17.8* Plt Ct-46*
___ 05:20AM BLOOD Neuts-62.7 ___ Monos-9.2 Eos-2.7 
Baso-0.4

Coags:
___ 02:10PM BLOOD ___ PTT-38.6* ___
___ 05:20AM BLOOD ___ PTT-41.4* ___

Renal/glucose:
___ 01:10PM BLOOD UreaN-15 Creat-1.1 Na-132* K-6.2* Cl-106 
HCO3-19* AnGap-13
___ 11:40PM BLOOD K-4.8
___ 05:20AM BLOOD Glucose-121* UreaN-17 Creat-1.0 Na-138 
K-4.6 Cl-109* HCO3-24 AnGap-10

LFTs:
___ 01:10PM BLOOD ALT-52* AST-85* AlkPhos-164* TotBili-4.4* 
DirBili-2.0* IndBili-2.4

Chemistry:
___ 01:10PM BLOOD TotProt-7.1 Albumin-2.8* Globuln-4.3 
Calcium-8.7 Phos-3.6 Mg-1.6
___ 05:20AM BLOOD Calcium-8.6 Phos-3.5 Mg-1.4*

Ammonia:
___ 01:10PM BLOOD Ammonia-85*

Cortisol:
___ 05:20AM BLOOD Cortsol-2.0

AFP:
___ 01:10PM BLOOD AFP-5.1

ECG ___: Sinus bradycardia. T wave inversions in leads V1-V2. 
Since the previous tracing of ___ the Q-T interval is 
shorter. Otherwise, tracing is unchanged.  

ECG ___: Sinus bradycardia. Since the previous tracing 
differences may be related to lead position and probably 
unchanged. 
 
Brief Hospital Course:
___ y.o. F with type 2 diabetes mellitus, hepatitis C complicated 
by cirrhosis, varices, hepatic encephalopathy, and HCC, 
presented to ___ on morning of admission with 
shakiness found to have hyponatremia and hyperkalemia.  
.  
# Confusion: Etiologies were thought to include could include 
hepatic encephalopathy, infection, toxic metabolic from 
hyponatremia, hyperkalemia, or less likely metastatic disease. 
It was ultimately believed that her confusion was secondary to 
the patient not taking her insulin or eating in the morning. She 
was continued on rifaximin, and her blood sugar was kept under 
good control. Her mental status cleared and she was alert and 
oriented x 3 at time of discharge.
.  
# Hyponatremia: Believed to be complication of cirrhosis. There 
were no signs of CHF or renal failure. Cortisol level was 
normal. The patient was normonatremic at time of discharge.
.  
# Hyperkalemia: The patient was treated for her hyperkalemia in 
the Emergency Department. Etiologies were thought to include 
dietary indiscretion, spironolactone effect, bactrim therapy for 
UTI, and/or insulin deficiency. EKG's showed now peaked T waves 
or other concerning changes. She was educated about low 
potassium diet. She was also discharged on a reduced dose of 
spironolactone, in addition to low-dose furosemide.  
.  
# Blood on toilet paper: The patient reported this while in the 
Emergency Department. To admitting housestaff, however, she 
denied this. Her hematocrit and hemodynamics were stable.
.  
#UTI: The patient completed a seven day course of bactrim on the 
day of admission.
.
# End Stage Liver Disease ___ Hepatitis C; Hepatocellular 
Carcinoma: LFTs were at baseline. She was continued on 
propanolol and rifaximin per outpt regimen. Management of her 
HCC was deferred to the outpatient setting.
.
# Type 2 Diabetes Mellitus: The patient was written for a 
diabetic diet and was placed on her home regimen of lantus and 
ISS
 
Medications on Admission:
Propanolol 40 mg po BID  
Pyridostigmine Bromide 30 mg po BID  
Rifaximin 400 mg po TID  
Spironolactone 100 mg po daily  
Zonisamide 200 mg po daily  
Bismuth Subsalicylate 262 mg/15 mL - 15 mL po TID prn 
indigestion  
Calcium carbonate 500 mg po BID  
Cholecalciferol 800 mg po daily  
Pantoprazole 40 mg po q12 hours  
Lantus 4 units SQ qhs  
Humalog SSI  
bactrim DS BID
 
Discharge Medications:
1. Propranolol 40 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
2. Pyridostigmine Bromide 60 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
3. Rifaximin 200 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).  
4. Zonisamide 100 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
5. Bismuth Subsalicylate 262 mg/15 mL Suspension Sig: Fifteen 
(15) ML PO TID (3 times a day) as needed for indigestion.  
6. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO QID (4 times a day) as needed for reflux.  
7. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
8. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
9. Lantus 100 unit/mL Cartridge Sig: Four (4) units Subcutaneous 
at bedtime.  
10. Sliding Scale Insulin
Please take your sliding scale insulin as you were taking it at 
home.
11. Spironolactone 25 mg Tablet Sig: One (1) Tablet PO once a 
day.
Disp:*30 Tablet(s)* Refills:*2*
12. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
1. Hyperkalemia
2. Hyponatremia
3. Dizziness likely secondary to low po intake
4. Hepatocellular carcinoma

Secondary Diagnosis:
1. Diabetes

 
Discharge Condition:
Stable. Ambulating.

 
Discharge Instructions:
You were admitted for mild confusion and shakiness which 
resolved after eating a snack. You also were noted to have a 
high potassium and a slightly low sodium on your labs.  This all 
improved after holding your Bactrim and your diuretic, 
spironolactone. You also had CyberKnife during your 
hospitalization. Please continue your Cyberknife treatments as 
already scheduled.

Please keep all your medical appointments. Cyberknife at 9:30 AM 
tomorrow (___).

Please continue to take all your medications as prescribed but 
with the following changes:
1. Please decrease your spironolactone to 25 mg daily. 
2. Please stop taking Bactrim as you have completed the 
treatment for a urinary tract infection. Again, Dr. ___ is aware 
of this.
3. Please start taking lasix 20 mg by mouth daily.

If you have any of the following symptoms, please call your 
doctor or go to the nearest ER: fever>101, chest pain, shortness 
of breath, abdominal pain, or any other concerning symptoms. If 
your fingerstick is less than 70, you should eat some candy or 
drink some juice or eat another snack.
 
Followup Instructions:
___